US07846956B2
7.35 g of {5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazol-3-yl}methanol was dissolved in 50 ml of methyl-t-butyl ether, and 3.36 g of 1,4-diazabicyclo[2.2.2]octane and 5.72 g of 4-toluenesulfonyl chloride were then added under ice-cooling. The mixture was stirred for 10 hours under ice-cooling. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 3.60 g of {5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazol-3-yl}methyl 4-methylbenzenesulfonate.

reactant | {5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazol-3-yl}methanol | 7.35 g | [Si](C)(C)(C(C)(C)C)OC(C)C1=CC(=NO1)CO | C12H23NO3Si
reactant | 1,4-diazabicyclo[2.2.2]octane | 3.36 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 4-toluenesulfonyl chloride | 5.72 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | methyl-t-butyl ether | 50 ml | COC(C)(C)C | C5H12O
product | {5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazol-3-yl}methyl 4-methylbenzenesulfonate | 3.60 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1=NOC(=C1)C(C)O[Si](C)(C)C(C)(C)C | C19H29NO5SSi
